US07514566B2
To a 500 mL round-bottomed flask was added (S)-2-(dibenzylamino)-N-methoxy-N-methyl-3-(4-(trifluoromethyl)phenyl)propanamide (6.22 g, 13.6 mmol), THF (100 mL), and LAH, 1.0 M solution in THF (27.3 mL, 27.3 mmol), dropwise at 0° C. After 30 minutes, TLC (2:1 hexanes:EtOAc) showed that no starting material remained. The mixture was quenched by dropwise addition of water (6.82 mL), 2 N NaOH (6.82 mL), and water (9.83 mL). The solids were removed by filtration through a medium scintered glass funnel. The filtrate was dried over sodium sulfate and evaporated. The residue was taken up in EtOAc (200 mL) and washed with brine (50 mL). The organic layer was dried over sodium sulfate and evaporated to provide (S)-2-(dibenzylamino)-3-(4-(trifluoromethyl)phenyl)propanal (4.51 g, 83.3% yield) as a light yellow oil. LCMS (ES+) m/z=398.2. 1H NMR (400 MHz, CDCl3) δ ppm 2.96 (dd, J=13.89, 5.67 Hz, 1H) 3.18 (dd, J=13.89, 7.43 Hz, 1H) 3.52-3.55 (m, 1H) 3.66-3.72 (m, 2H) 3.82-3.88 (m, 2H) 7.21-7.33 (m, 12H) 7.50 (d, J=8.02 Hz, 2H) 9.74 (s, 1H).

reactant | (S)-2-(dibenzylamino)-N-methoxy-N-methyl-3-(4-(trifluoromethyl)phenyl)propanamide | 13.6 mmol, 6.22 g | C(C1=CC=CC=C1)N([C@H](C(=O)N(C)OC)CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=CC=C1 | C26H27F3N2O2
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 27.3 mmol, 27.3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-(dibenzylamino)-3-(4-(trifluoromethyl)phenyl)propanal | 4.51 g, 83.3% yield | C(C1=CC=CC=C1)N([C@H](C=O)CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=CC=C1 | C24H22F3NO
